US08633317B2
Preparation of N-(4-[4-amino-7-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]thieno[3,2-c]pyridin-3-yl]phenyl)-N′-(3-fluorophenyl)urea HCl Form III
N-(4-{4-amino-7-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]thieno[3,2-c]pyridin-3-yl}phenyl)-N′-(3-fluorophenyl)urea free base solid (27 mg) was suspended in 2-propanol (750 μL) at 40° C. with magnetic stirring. Hydrochloric acid (60 μL, 1 N) was diluted with 2-propanol (250 μL). Hydrochloric acid solution was then slowly added to the A-968660 free base suspension at 40° C. with magnetic stirring. Crystallization was observed shortly after the complete addition of the HCl solution. Solid was collected by centrifuge filtration.

reactant | N-(4-{4-amino-7-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]thieno[3,2-c]pyridin-3-yl}phenyl)-N′-(3-fluorophenyl)urea | NC1=NC=C(C2=C1C(=CS2)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)F)C=2C=NN(C2)CCO | C25H21FN6O2S
reactant | Hydrochloric acid | 1 N, 60 μL | Cl | ClH
solvent | 2-propanol | 750 μL | CC(C)O | C3H8O
solvent | 2-propanol | 250 μL | CC(C)O | C3H8O
product | N-(4-[4-amino-7-[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]thieno[3,2-c]pyridin-3-yl]phenyl)-N′-(3-fluorophenyl)urea HCl | Cl.NC1=NC=C(C2=C1C(=CS2)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)F)C=2C=NN(C2)CCO | InChI=1S/C25H21FN6O2S.ClH/c26-17-2-1-3-19(10-17)31-25(34)30-18-6-4-15(5-7-18)21-14-35-23-20(12-28-24(27)22(21)23)16-11-29-32(13-16)8-9-33;/h1-7,10-14,33H,8-9H2,(H2,27,28)(H2,30,31,34);1H
